US07858796B2
(282) 5-(5-{[(1,1-dimethylethyl)amino]methyl}-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
Following the general procedure in example 281, 5-(5-formyl-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide (40 mg, 0.08 mmol), (1,1-dimethylethyl)amine (70 mg, 0.8 mmol) and NaBH4 (30.26 mg, 0.8 mmol) were reacted to form the desired product which was purified by Gilson HPLC (CH3CN/Water, 0.1% TFA) (8.4 mg, 19%).

reactant | 5-(5-formyl-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 0.08 mmol, 40 mg | C(=O)C1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC | C23H27N3O5S2
reactant | (1,1-dimethylethyl)amine | 0.8 mmol, 70 mg | CC(C)(C)N | C4H11N
reactant | NaBH4 | 0.8 mmol, 30.26 mg | [BH4-].[Na+]
product | 5-(5-{[(1,1-dimethylethyl)amino]methyl}-3-thienyl)-3-(1-{[3-(methyloxy)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | CC(C)(C)NCC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCOC | C27H38N4O4S2
